Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd pain
 
Major Surgical or Invasive Procedure:
___: ex-lap and LOA 
___: hematoma evacuation
___: Incision opened and VAC placed

 
History of Present Illness:
___ with HCV, ETOH cirrhosis (MELD 13, MELD-Na 18)p/w 5 days of 
nausea, vomiting, abdominal pain and melena. His symptoms 
started 5 days ago and he has not been able to maintain adequate 
PO intake since. His pain was initially diffuse but is now 
localized to the RLQ. Denies fevers or chills. No prior similar 
episodes in the past. The patient is followed by Dr. ___ at
___. Per patient report his liver disease has 
been stable in the past ___ years and his ascites has been well 
controlled with medical
therapy (last paracenthesis over one year ago per pt report). 
Last EGD on file done in ___, significant for 2 bleeding 
gastric ulcers and one duodenal ulcer.

 
Past Medical History:
HCV, cirrhosis,lumbar and sacral osteoarthritis, FTT, gastric 
and
duodenal ulcers
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
Temp: 98.5; P: 89; BP: 109/69; RR: 18; O2: 100% RA
General: alert, OrientedX3; in no acute distress
HEENT: atraumatic, normocephalic; oral mucosa moist
Resp: clear breath sounds bilaterally
CV: RRR; no murmurs, rubs, or gallops
Abd: soft, protuberant, mid-line vac intact 
Vac measurement: 5cm long x2cm wide x1cm deep; low suction, 
-75mm Hg
Extr: atraumatic, skin intact 
 
Pertinent Results:
___ 05:00AM BLOOD WBC-7.2 RBC-2.11* Hgb-7.2* Hct-22.2* 
MCV-105* MCH-34.1* MCHC-32.4 RDW-19.5* RDWSD-73.1* Plt ___
___ 07:30AM BLOOD WBC-7.3 RBC-3.44* Hgb-11.9* Hct-35.3* 
MCV-103* MCH-34.6* MCHC-33.7 RDW-14.8 RDWSD-55.3* Plt ___
___ 05:20AM BLOOD ___ PTT-41.5* ___
___ 05:00AM BLOOD Glucose-86 UreaN-10 Creat-0.5 Na-131* 
K-3.8 Cl-103 HCO3-22 AnGap-10
___ 04:40AM BLOOD ALT-14 AST-38 AlkPhos-83 TotBili-3.4*
___ 07:30AM BLOOD Lipase-126*
___ 05:00AM BLOOD Albumin-2.2* Calcium-7.2* Phos-2.4* 
Mg-1.7

     

___
CT ABD & PELVIS WITH CO
IMPRESSION: 
  
  
1. Large right rectus sheath hematoma measuring 9 x 5.9 x 8.5 cm 
with evidence  of active extravasation. Given patient's history 
of cirrhosis and portal hypertension and venous collaterals, it 
is unclear whether the source of this hematoma is arterial or 
venous. 
2. Moderate right-sided pleural effusion. 
3. Cirrhotic appearing liver, extensive esophageal, perigastric, 
and 
perisplenic varices, and large volume ascites. 

___
PARACENTESIS DIAG/THERA
IMPRESSION:  
  
Technically successful ultrasound-guided diagnostic and 
therapeutic 
paracentesis removing 0.8 L of serosanguineous ascitic fluid. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of HCV cirrhosis 
who presented to ___ on ___ with the chief complaint of 
abdominal pain; evaluation in the ED by surgery revealed 
localized abdominal pain, with clinical and radiological signs 
of an acute abdomen with concern for an internal hernia. The 
patient was taken to the OR for a lysis of adhesions and relief 
of obstruction due to multiple adhesions into the pelvis causing 
an internal loop obstruction. The patient tolerated the 
procedure well, please refer to the operative report for further 
details. Post-procedure the patient was extubated in PACU due to 
prolonged sedation, which went unremarkably. He did receive 24 
hours of cefazolin after surgery, in addition to 5% albumin for 
a total of 500cc for volume support. 

On POD1: The patient was kept NPO, with a NG tube in place. He 
electrolytes were closely monitored and repleted as necessary. 
His pain was further managed with IV and PO pain medications.

POD2: a NGT clamp trial was performed, and the patient was 
started on glutamine supplementation. His electrolytes were 
continued to be closely monitored and repleted. There was a 
concern for a RUE DVT due to difficult CVL placement in the OR; 
however, a repeat RUE/neck US showed no evidence of a DVT. 

POD3: the patient underwent a KUB, which did not show signs of 
obstruction or ileus. NGT was dc'd, and the patient was kept 
NPO. He electrolytes were repleted as per protocol. His foley 
catheter was removed at mid-night, and the patient voided 
spontaneously.

POD4: the patient complained of a cough with intermittent sputum 
production, he was given a PRN nebulizer therapy and a PA/LAT 
cxr was consistent with clearing of a prior mucous plug. The 
patient was started on a clear liquid diet, and his IVF were 
stopped once he was taking in a good amount PO. His home Lasix 
dose was continued as well. The patient's expected 
post-operative pain and transient electrolyte abnormalities were 
followed and corrected.

POD5: overnight the patient complained of ___ 
erythema, along with fluctuance and increased pain/tenderness. 
An Abd/Pelv CT scan without contrast revealed a large right 
rectus sheath hematoma measuring 9 x 5.9 x 8.5 cm with evidence 
of active extravasation; given those findings, several wound 
staples were removed at bed-side with the plan to take to OR as 
soon as possible. The patient received a ___ in the 
interim due to continuous oozing from his abdominal wound. A 
foley was placed due to urinary retention. The patient was taken 
to the OR and a rectus sheath hematoma was evacuated, and any 
active bleeders were treated with argon beam laser. A wound vac 
was placed in the OR for wound management. Post-op the patient's 
medications were resumed, and he was started on a clear liquid 
diet. 

POD6: the patient tolerated his clear diet well and was advanced 
to a regular diet, while his IVF were dc'd. His diuretics were 
restarted and he was given 1U of FFP due to a high INR and 
anticipation of a paracentesis. The patient's levaquin for 
presumed pneumonia was changed to vanc, cefepime for broader 
coverage; in addition, he underwent a nasal MRSA screen which 
was negative, along with sputum cx which grew commensal flora. 
The patient under paracentesis due to abdominal distention, 
where 0.8L were removed, and cell count was not consistent with 
SBP. The patient received 12.5 grams of albumin for repletion. 

POD7: the patient was restarted on his lactulose, his foley 
dc'd, and a vac placed. 

POD8: the patient was managed for his routine pain control, 
electrolyte repletion, along with ambulation.

POD9: a physical therapy consult was placed, and the patient 
resumed his PO levaquin to complete a 7-day course. 

POD10-11: an occupation therapy consult was placed, and the 
patient was discharged to rehab. 
The patient's vac was changed on ___ its measurements are 
5cmX2cmX1cm deep, and the vac is set on min suction at -75 mmHg

At the time of discharge, the patient was comfortable with the 
discharge plan and recommendations.    

 
Medications on Admission:
Spironolactone 50 mg daily
Furosemide 20 mg daily
Lactulose  20 GM/30 ML solution 30 mLs by mouth 3 (three) times 
daily. 
Lidocaine 5 % patch
MVI
Potassium chloride ___ MEQ tablet1 tablet by mouth daily. 

 
Discharge Medications:
1. Furosemide 20 mg PO DAILY 
2. Lactulose 30 mL PO TID 
Titrate to ___ bowel movements daily 
3. Spironolactone 50 mg PO DAILY 
4. Famotidine 20 mg PO Q12H 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Multivitamins 1 TAB PO DAILY 
8. Potassium Chloride 10 mEq PO DAILY 
Hold for K > 5 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
ETOH Cirrhosis
Small bowel obstruction
Rectus sheath hematoma
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please contact Dr. ___ office at ___ if the patient 
develops fever > 101, chills, bleeding from the wound, nausea, 
vomiting, diarrhea, constipation, inability to tolerate food, 
fluids or medications, increased abdominal pain, jaundice ; 
yellowing of the skin or eyes, VAC fails to hold suction or any 
other concerns

No lifting more than 10 pounds

VAC dressing change to abdominal wound q 3 days using black foam 
and 75 mmHG continuous suction. If VAC fails, wound may be 
temporarily dressed with a NS damp to dry dressing.

 
Followup Instructions:
___